*****************************************************************
* NXP PSMN059-150Y
*
* Polarity N-Channel
* Ratings 150V/5.900000E-002OHMS/43A
*
* Date Created Fri Jul 08 20:54:19 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN059-150Y DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0418373803241663 TC=0.00568968867728454,3.53976069654272E-05
RBD 9 4 0.00202753180008018 TC=0.00568968867728454,3.53976069654272E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 1.2725e-09
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	890
+ -20	880
+ -10	865
+ -5	880
+ -2	1175
+ -1	922
+ -0.5	785
+ -0.2	697
+ -0.1	666
+ 0	630
+ 0.1	580
+ 0.2	524
+ 0.5	3521
+ 1	233
+ 2	177
+ 5	129
+ 10	100
+ 20	77
+ 30	66



.MODEL MINT NMOS(Vto=3.11395877982118 Kp=3.912613e+001 Nfs=100000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=168 Ibv=2.500000E-004 Rs=1E-6 Is=1.11449668872667e-12
+ N=1 M=0.990000000000001 VJ=0.5 Fc=0.5 Cjo=1.043e-09 Tt=5.7e-08)

.ENDS



