*****************************************************************
* NXP PSMN011_80YS
*
* Polarity N-Channel
* Ratings 80V/1.10E-02OHMS/25A
*
* Date Created Sun Oct 17 01:43:23 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
* 
*****************************************************************

.SUBCKT PSMN011_80YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 4.30084418749933e-10
RLG GATE 1 1.08091912728048
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 80000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00984748400489996 TC=0.00884020231997967,7.12740366225014e-06
RBD 9 4 0.000704033272066971 TC=0.00884020231997967,7.12740366225014e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.61425925925926e-09
RG 1 2 0.699302875042655

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	2035
+ -25	2034
+ -20	2031
+ -10	2025
+ -8	2022
+ -6	2010
+ -4	2087
+ -2	1579
+ 0	0
+ 0.1	482
+ 0.2	453
+ 0.5	383
+ 1	293
+ 2	198
+ 5	175
+ 10	182
+ 20	164
+ 25	158
+ 30	153
+ 40	145



.MODEL MINT NMOS(Vto=4.29566858542846 Kp=2.3741e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=80.00 Ibv=2.50E-04 Rs=1E-6 Is=1.46665445505171e-12
+ N=1 M=0.65 VJ=0.5 Fc=0.5 Cjo=1.90212e-09 Tt=5.41e-08)

.ENDS


