*****************************************************************
* NXP PSMN012-100YS
*
* Polarity N-Channel
* Ratings 100V/1.200000E-002OHMS/60A
*
* Date Created Wed Nov 02 03:29:35 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN012-100YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 1666666666.66667 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00893707522470541 TC=0.00589952267587148,3.61082470164779E-05
RBD 9 4 0.000476937362398329 TC=0.00589952267587148,3.61082470164779E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.22736284470247e-09
RG 1 2 0.676633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	2030
+ -1	1824
+ -0.5	1493
+ -0.2	1255
+ -0.1	1177
+ 0	1110
+ 0.1	1015
+ 0.2	945
+ 0.5	820
+ 1	700
+ 2	517
+ 5	344
+ 10	277
+ 20	216.4
+ 25	197
+ 50	148
+ 75	99
+ 100	50


.MODEL MINT NMOS(Vto=3.650 Kp=1.70e+002 Nfs=660000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=900)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.10219257927429e-12
+ N=1 M=0.63 VJ=0.75 Fc=0.5 Cjo=1.278e-09 Tt=5.6e-08)

.ENDS



