*****************************************************************
* NXP PSMN012-60YS
*
* Polarity N-Channel
* Ratings 60V/1.20E-02OHMS/59A
*
* Date Created Tue Jun  8 08:05:37 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN012-60YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 2000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00546319566746106 TC=0.00398567406517788,1.97539043044687e-05
RBD 9 4 0.00117507546058944 TC=0.00398567406517788,1.97539043044687e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 1.4e-9
RG 1 2 0.657840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1627
+ -10	1619
+ -5	1604
+ -2	1035
+ -1	763
+ -0.5	577
+ -0.2	470
+ -0.1	445
+ 0	424
+ 0.1	396
+ 0.2	375
+ 0.5	335
+ 1	288
+ 2	226
+ 5	177
+ 10	161
+ 20	143
+ 30	136



.MODEL MINT NMOS(Vto=3.6 Kp=7.0e+01 Nfs=640000000000 eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6   Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0     
+ U0=600    Vmax=1500)

.MODEL DBD D(Bv=67.20 Ibv=2.50E-04 Rs=1E-6 Is=9.46212738817059e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.083e-09 Tt=3.518e-08)

.ENDS