*****************************************************************
* NXP PSMN014_40YS
*
* Polarity N-Channel
* Ratings 40V/1.40E-02OHMS/5A
*
* Date Created Sun Oct 17 01:40:40 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
* 
*****************************************************************

.SUBCKT PSMN014_40YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 4.30084418749933e-10
RLG GATE 1 1.08091912728048
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00476029362189439 TC=0.00684418007579217,8.90438891324831e-06
RBD 9 4 0.00233641586995276 TC=0.00684418007579217,8.90438891324831e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.90396272500398e-10
RG 1 2 0.599302875042655

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	623
+ -10	624
+ -8	624
+ -6	621
+ -4	613
+ -2	479
+ 0	0
+ 0.1	255
+ 0.2	240
+ 0.5	208
+ 1	181
+ 2	158
+ 5	130
+ 10	113
+ 20	99
+ 25	95
+ 30	91



.MODEL MINT NMOS(Vto=3.45395276766304 Kp=1.7303e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1100)

.MODEL DBD D(Bv=40.00 Ibv=2.50E-04 Rs=1E-6 Is=1.47790043054322e-13
+ N=1 M=0.63 VJ=0.5 Fc=0.5 Cjo=5.9411e-10 Tt=2.175e-08)

.ENDS

