*****************************************************************
* NXP PSMN020-100YS
*
* Polarity N-Channel
* Ratings 100V/2.050000E-002OHMS/43A
*
* Date Created Fri Nov 04 01:11:22 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN020-100YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 1666666666.66667 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0129022565411952 TC=0.0107751875176008,-8.11232221033686E-05
RBD 9 4 0.00100605709393876 TC=0.0107751875176008,-8.11232221033686E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 2.107e-09
RG 1 2 0.576633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1300
+ -1	1164
+ -0.5	929
+ -0.2	786
+ -0.1	740
+ 0	717.5
+ 0.1	636
+ 0.2	602
+ 0.5	523
+ 1	446
+ 2	335
+ 5	226
+ 10	189
+ 20	149
+ 25	137
+ 30	126
+ 50	102
+ 70	78
+ 90	54
+ 100	42


.MODEL MINT NMOS(Vto=3.51 Kp=0.8e+002 Nfs=640000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=1.193550953505e-12
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=9.5e-10 Tt=5.2e-08)

.ENDS

